Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I've been feeling really depressed"
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Per ED Psychiatry Initial Consultation:
.
Ms. ___ is a ___ year old married, domiciled, employed 
female with past psychiatric hx of post partum depression, 
depression, anxiety and a past medical hx of UC, presenting to 
us with depression and worsening SI in the context of social 
acute social stressors. 
.
Ms. ___ has been experiencing feelings of suicidal ideation 
for the past, but they have worsened in the past week in the 
setting of a wedding preparations and, specifically, a 
bachelorette party which took place on the ___ prior to 
presentation, ___. Per patient report she has significant social 
anxiety which was triggered by the fact that additional new 
people had recently been invited to the party. The patient then 
chose not to attend the party at the last minute. She began to 
receive texts from the members of the wedding party expressing 
upset at her absence. This led to the exacerbation of her 
symptoms of social anxiety, depression, feelings of anger and 
her SI. She was so upset the receipt of the messages that ___ 
and ___ prior to presentation, she stayed home from work. On 
___, patient went to work and perceived that her 
colleagues were upset with her for not having been present for 
the previous two days. This also added to her feelings of 
anxiety resulting acute SI with a plan of cutting her wrists 
with one of her husband's box cutters. In addition to the plan, 
she began to prepare by writing a note to her husband and ___ year 
old daughter, ___.  
.
She felt she could not follow through with her plan, citing her 
daughter as a protective factor. She did not visibly change 
expression when mentioning her daughter as a protective factor 
to this interviewer. When her husband returned home, she told 
him of her plan, and per her report, they talked about it and 
together, concluded that she should come to the ED. 
.
Additionally, the patient reports that she had post partum 
depression ___ years ago, when her daughter was born. She began 
seeing a therapist, and taking citalopram to good effect. Once 
she believed herself to be stable, she stopped seeing her 
therapist regularly. She was stable up until 1.5 months ago when
she began helping with the wedding preparations of her best 
friend. She felt an increase in her symptoms of social anxiety 
leading her to seek help with her PCPs Dr. ___ and NP 
___ in the General Med/Prim.Care at ___. She was 
then prescribed Bupropion and felt well up until just prior to
the aforementioned bachelorette party. 
.
REVIEW OF SYSTEMS:
-Psychiatric: 
---Depression: Endorses symptoms of depression such as depressed 
mood, fatigue/loss of energy, anhedonia, thoughts of death/SI, 
sleep disturbance, including insomnia, loss of appetite, poor 
concentration, Denies, psychomotor agitation or retardation.
---Anxiety: Endorses symptoms of anxiety such as worry, 
rumination, intrusive thoughts, avoidance, phobias, panic. 
---Mania: Denies symptoms of mania such as distractibility, 
erratic/risky behavior, grandiosity, flight of ideas, increased 
activity, decreased need for sleep, or talkativeness/pressured 
speech.  
---Psychosis: Denies symptoms of psychosis such as auditory or 
visual hallucinations, or delusions of reference, paranoia, 
thought insertion/broadcasting/withdrawal.
-General: Denies fatigue, fever, chills, nightsweats, headache, 
focal numbness, focal weakness, changes in vision, changes in 
hearing, heat intolerance, cold intolerance, polyuria, 
polydipsia, cough, SOB, CP, palpitations, abdominal pain, 
nausea, vomiting, diarrhea, constipation, melena, blood in 
stools,
dysuria, increased urinary frequency, rash, skin changes, joint 
pain, muscle pain, edema, bruising, bleeding.
.
.
PER ADMISSION NOTE TO INPATIENT UNIT:
Ms. ___ is a ___ woman with social anxiety and 
depression who presented to the ED with her husband for suicidal 
ideation in the setting of anxiety over a bachelorette party and 
upcoming wedding. On ___ (4 days prior to admission), she 
was supposed to attend a bachelorette party for her best friend. 
However, on the day of the event, she felt too anxious about
having to interact with others in a social setting and having to 
meet new people, so she decided not to attend. She says "I 
wanted to go, but I just couldn't." Her friends were upset that 
she did not attend, but then found out about her anxiety and 
have since been supportive. After her anxiety about missing the 
event on ___, she became extremely depressed and wrote a 
suicide note. She planned to cut her wrists with a box cutter 
that he
husband had been using to renovate their home. She did not 
attend work (as a ___) on ___ or ___, 
partly because many people who attended the bachelorette party 
work with her. On ___, she attended work and felt 
extremely stressed out and depressed to the point where shoe 
could not concentrate and could barely do anything on the 
computer. She went home and
showed her suicide note to her husband, who was reassuring and 
brought her to the ED. 
.
On admission interview, she reports that she has had social 
anxiety and depression for many years, but this is the first 
time that she has planned to commit suicide. She says that she 
doesn't want her daughter to grow up with a mom in the state 
that she is in. She reports having had prior passive, fleeting 
thoughts of wishing she weren't alive, but had never made a plan 
to end her life or made any attempts in the past. She also 
denies any cutting or
other self-harm behavior. Denies AH or VH.
.
She says that she is not currently suicidal and wants to live. 
She feels somewhat relieved that she will not have to attend the 
wedding this coming weekend, but guilty that her daughter was 
supposed to be the flower girl. She wishes she could go and 
would rather go than be in the hospital because she doesn't want 
to ruin it for her daughter. She is not sure what she is afraid 
of
in social situations, and does not typically feel this when she 
interacts with people at work. She feels anxious whenever she 
meets someone she doesn't know, and she even feels anxious 
around groups of people she does know (e.g. ~20 people at the 
bachelorette party). She says she has been this way her whole
life; she had few friends growing up and has always preferred 
keeping to herself. She avoids social interactions, even though 
she wants to be with other people.
.
She also has a long history of depression. She says she has 
"never really felt up" and can't remember a period when she did 
not feel depressed. She has been on antidepressants for many 
years, although she stopped when she was pregnant in ___. After 
giving birth to her daughter in ___, she experienced post
partum depression and felt that she didn't want the baby and has 
no connection to her. She says that, at the time, she felt that 
it wouldn't bother her if her baby was kidnapped or died 
suddenly. She was started on Selexa a few weeks after giving 
birth, and began to feel better within ___ months, and had a 
bond
with the baby after ___. She now has a great relationship with 
the baby and enjoys spending time with her. 
.
She has seen a therapist in the past for depression, including 
before her pregnancy, and she saw her therapist for post partum 
depression. She has not seen her therapist recently. She didn't 
find therapy helpful, but says it at least got her out of the 
house. Her depression and anxiety are managed by her PCP. She 
takes citalopram 40mg (was started during her post partum 
depression period), and she was started on bupropion 300mg daily 
about 6 weeks ago. Initially, she felt that it improved her mood 
("I had never felt that way before"). However, she feels that it 
has made her increasingly more anxious over the subsequent 
weeks. She also takes hydroxyzine prn and lorazepam 1mg prn. She 
states that she takes the lorazepam 1mg each night to help with 
sleep,
and then an additional dose about once per week for anxiety. She 
has never taken any other psychiatric medications.
.
She reports that within the last week, she has been sleeping a 
lot out of avoidance. Her energy is low, but her concentration 
is okay. She feels more sadness than anxiety at this time. She 
enjoys watching TV and spending time with her daughter, ___, 
but does not go out for walks or do any exercise.
.
.

 
Past Medical History:
PAST MEDICAL HISTORY
PCP: Dr. ___ colitis (in remission) 
Denies history of head trauma, seizure.
.
.
PAST PSYCHIATRIC HISTORY:

-Prior diagnoses: Post partum depression, Depression, Anxiety 
-Hospitalizations: Denies
-Partial hospitalizations: Denies
-Psychiatrist: Denies
-Therapist: Denies
-Medication trials: As above
-___ trials: Denies
-Suicide attempts: Denies
-Self-injurious behavior: Denies
-Harm to others: Denies
-Trauma: Denies
-Access to weapons: Husband's box ___
.
 
Social History:
SOCIAL HISTORY:
-Born/Raised: ___ area)
-Relationship status/Children: Married, 1 daughter ___ yrs 
(___)
-Primary Supports: Husband "It's really only my husband I can
count on.
-Housing: Single family home with husband
-Education: 
-___: ___ at ___: Raised ___
-___ History: ___
SUBSTANCE USE HISTORY:
-Caffeine: ___ ___ 
-Tobacco: Former smoker of ___ years 1ppd habit, quit in ___. 
-Alcohol: Denies
-Marijuana: Denies
-Heroin: Denies
-Opiates: Denies
-Benzos: Alprazolam, lorazepam with prescription. Denies
completing pills prior to end of prescription
-Cocaine: Denies
-Amphetamines/speed: Denies
-LSD/PCP: ___: Denies
-Detox: Denies
-Other Drugs: Denies
.
.
FORENSIC HISTORY:
-Arrests: Denies
-Convictions and jail terms: Denies
-Current status (pending charges, probation, parole): Denies
.
 
Family History:
FAMILY PSYCHIATRIC HISTORY:
-Psychiatric Diagnoses: 
___ Uncle-etoh use ___ use
Dad- ___ use disorder, died ___ liver failure
-Substance Use Disorders: Denies
-Suicide Attempts/Completed Suicides: Denies
.
 
Physical Exam:
EXAM AT ADMISSION:

EXAM

VS: T 98.5 BP 128/87 HR 88 RR 16 O2Sat 94%

GEN: well appearing, cooperative, reserved, in NAD

NEUROLOGIC: grossly intact

MENTAL STATUS:
• Appearance: well groomed, wearing ___, in NAD 
• Behavior: calm, reserved, cooperative, smiling intermittently,
tearful at some point during the interview 
• Mood: "okay, but I don't want to be here" 
• Affect: anxious, saddened, full range, appropriate 
• Thought process: linear, logical, goal-oriented 
• Thought content: denies active SI, denies AH/VH 
• Judgment: Fair 
• Insight: Fair 

COGNITION:
• Attentive, oriented to person, place, and time 
• DOWB intact 
• Calculation: $1.75 = 7 quarters 
• Abstraction: watch and ruler "both have numbers" 
• Fund of knowledge: names ___ presidents 
• Speech: volume, rate, rhythm, tone normal 
• Language: fluent ___ 

=======
EXAM AT DISCHARGE:

GEN: well appearing, cooperative, reserved, in NAD

NEUROLOGIC: grossly intact

MENTAL STATUS:
• Appearance: well groomed, in NAD 
• Behavior: calm, cooperative, polite
• Mood/affect: "good", stable, brighter, feels ready to be 
discharged,   congruent, full range, appropriate 
• Thought process: linear, logical, goal-oriented, reality 
oriented, goal directed 
• Thought content: denies SIHI, denies AH/VH/delusions 
• Judgment: Fair 
• Insight: Fair 

 
Pertinent Results:
.
HbA1c: 5.5 (on ___
BMI: 29.9 (weight 83.92 kg = 185.01 lbs, height 66 in) (on 
___
BP: 118/74 (on ___
Thyroid studies on ___: TSH 1.2, T4 of 10.7
BHCG on ___: <5
Liver studies on ___: ALT 11, AST 14, AP 81, TBili 0.3
CBC on ___: WBC 6.9, H/H 14.8/42.8, Plt 311
Chem on ___: BUN 11, Cr 0.7, Na 140, K 4.2, Cl 101, Bicarb 
25, AG 14, Glu 125
.

Additional Laboratory Values:
.
___ 12:00PM   GLUCOSE-125* UREA N-11 CREAT-0.8 SODIUM-140 
POTASSIUM-4.2 CHLORIDE-101 TOTAL CO2-25 ANION GAP-14
___ 12:00PM   ALT(SGPT)-11 AST(SGOT)-14 ALK PHOS-81 TOT 
BILI-0.3
___ 12:00PM   CALCIUM-9.6 PHOSPHATE-3.0 MAGNESIUM-2.1
___ 12:00PM   %HbA1c-5.5 eAG-111
___ 12:00PM   TSH-1.2
___ 12:00PM   T4-10.7
___ 12:00PM   HCG-<5
___ 12:00PM   WBC-6.9 RBC-4.75 HGB-14.8 HCT-42.8 MCV-90 
MCH-31.2 MCHC-34.6 RDW-12.0 RDWSD-39.7
___ 12:00PM   PLT COUNT-311
___ 09:30PM URINE  HOURS-RANDOM
___ 09:30PM URINE  UCG-NEGATIVE
___ 09:30PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 09:30PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 09:30PM URINE  BLOOD-MOD* NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-40* BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 09:30PM URINE  RBC-1 WBC-3 BACTERIA-FEW* YEAST-NONE 
EPI-1
___ 09:30PM URINE  MUCOUS-MOD*
___ 09:04PM   GLUCOSE-93 UREA N-10 CREAT-0.9 SODIUM-140 
POTASSIUM-4.5 CHLORIDE-100 TOTAL CO2-24 ANION GAP-16
___ 09:04PM   estGFR-Using this
___ 09:04PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 09:04PM   WBC-8.7 RBC-4.89 HGB-15.1 HCT-43.7 MCV-89 
MCH-30.9 MCHC-34.6 RDW-12.2 RDWSD-40.0
___ 09:04PM   NEUTS-55.1 ___ MONOS-8.0 EOS-2.3 
BASOS-0.5 IM ___ AbsNeut-4.78 AbsLymp-2.91 AbsMono-0.69 
AbsEos-0.20 AbsBaso-0.04
___ 09:04PM   PLT COUNT-342
.
 
Brief Hospital Course:
Ms. ___ is a ___ woman with social anxiety and 
depression who presented to the ED for suicidal ideation in the 
setting of anxiety over a bachelorette party and upcoming 
wedding. She had plans to slit her wrists with a boxcutter, and
had written a suicide note to her husband and daughter.  
.
At admission, she reported no active SI, but felt "intense 
depression" and was more saddened than anxious. Exam was notable 
for saddened, tearful affect. Of note, the timeline of her 
increased anxiety is concordant with the introduction of
bupropion to her medical therapy, consistent with the known 
complication of bupropion of increased anxiety. Her citalopram 
is at the maximum dose, and the bupropion is likely to have 
worsened her anxiety, thus an alternative ___ medical 
regimen was considered. 
.
Given her narrative at admission, her rapid transformation from 
social anxiety to active suicidality within a day was concerning 
for poor coping skills and a proclivity for impulsivity under 
stress. She additionally has a longstanding history of social 
anxiety and depression poorly controlled with medication and
family history of suicide attempts. Altogether, these risk 
factors warranted inpatient hospitalization despite her 
protective risk factors of help-seeking nature, strong family 
supports, children in the home. The patient was felt to pose a 
risk of harm to herself given the impulsivity of her suicidal 
intent prior to admission.
.
Since arrival on the unit, her mood and affect have improved 
significantly, and today she denies sadness or SI. Her 
wellbutrin has been discontinued, and her ativan decreased 
without issue.
.
She is eager to leave the hospital, and desires outpatient 
therapy. A possible transition to venlafaxine from citalopram 
was proposed, but the patient desires to remain on citalopram at 
this time and to follow up as an outpatient.
.
Diagnoses:
Social anxiety 
MDD 
.
1. LEGAL & SAFETY:  
On admission, Ms. ___ signed a conditional voluntary 
agreement (Section 10 & 11) and that legal status remained in 
place throughout admission.  She was placed on 15 minute checks 
status on admission and remained on that level of observation 
throughout while being unit restricted.
.
During this hospitalization she had no behavioral or safety 
concerns.
.
2. PSYCHIATRIC:
#) MDD, Social anxiety 
Admitted with depression and active SI in the setting of social 
anxiety, with likely contribution from buproprion to worsening 
anxiety over several weeks. Buproprion tapered and discontinued 
on ___. The patient tolerated this change well and denied 
any side effects from discontinuing this medication. She stated 
that her mood and anxiety was improved after this medication was 
discontinued.
. 
Ativan was tapered to 0.5 BID prn with acceptable control of 
symptoms, patient felt she had more energy and didn't feel as 
tired.
.
In addition, further medication changes were proposed to the 
patient, including a transition from citalopram to venlafaxine. 
However, the patient desired to remain on her home dose of 
citalopram at this time without further additions or changes. 
She stated that she feels improved with this hospitalization and 
the medication changes noted above. She is educated on the 
importance on outpatient follow up and she expresses motivated 
to pursue outpatient followup with both a psychiatrist and a 
therapist, as well as with her PCP. 
.
- Recommend follow up with psychiatrist and therapist for 
further management of depression and social anxiety
- Psychiatry or PCP should monitor symptoms. We suggest 
considering cross taper from citalopram to venlafaxine if 
further medication changes are indicated
.
3. SUBSTANCE USE DISORDERS:
No active substance use reported.
.
4. MEDICAL
Ms. ___ was medically cleared in the ED; no acute medical 
issues prevented admission to Deac 4.  
.
She did have a chronic medical condition of Ulcerative Colitis 
as noted below.
.
#) Ulcerative Colitis
In remission at time of admission to the inpatient psychiatry 
unit.
.
Continued home balsalazide 750mg x4 QAM, 750mg x5 QHS
.
During this hospitalization, she experienced bloody stool, 
thought likely due to an Ulcerative Colitis flare secondary to 
stress and underwent a flex sig on ___.
.
Per gastroenterology recs after the flex sig:
- Flex sig showed evidence of rectal inflammation
- Cortifoam enemas BID
- Canasa suppositories at night
- Patient to follow up within 4 weeks with Dr. ___
.
PCP please help to follow up flex sig biopsy results.
.
5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
___ was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
occupational therapy and social work groups that focus on 
teaching patients various coping skills. She often attended 
these groups. She was visible on the milieu and appropriately 
interacted with staff and peers. She also noted an enjoyment of 
reading novels. With staff, she was pleasant, polite, and 
cooperative.
.
#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
Husband ___ ___
.
On the evening of ___, husband reports that he was 
able to visit on ___. He endorses that she does feel 
improved in mood. He is aware of the
importance of outpatient follow up for the patient. Family 
meeting - completed
.
6. INFORMED CONSENT: 
The team discussed the indications for, intended benefits of, 
and possible side effects and risks of this medication, and 
risks and benefits of possible alternatives, including not 
taking the medication, with this patient.  We discussed the 
patient's right to decide whether to take this medication as 
well as the importance of the patient's actively participating 
in the treatment and discussing any questions about medications 
with the treatment team, and the team answered the patient's 
questions.  The patient appeared able to understand and 
consented to continue taking the medication.
.
7. RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself. 
.
-Risk Factors: Caucasian ethnicity, family history of mental 
illness/substance use disorder, history of abuse/trauma, history 
of self-injury, psychiatric diagnosis, financial hardship,  lack 
of outpatient treaters, access to lethal weapons (box cutters), 
acutely stressful events, chronic medical illness (Ulcerative 
Colitis), hopelessness, severe anxiety/panic attacks, decreased 
self-esteem, acute SI with active planning and preparation.
.
Modifiable risk factors were addressed with acute stabilization 
in a safe environment on a locked inpatient unit, 
psychopharmacologic adjustments, psychotherapeutic interventions 
(OT groups, SW groups, individual therapy meetings with 
psychiatrists), and presence on a social milieu environment.  
___ is being discharged with many protective factors, 
including those noted below.  Overall, based on the totality of 
our assessment at this time, Ms. ___ is not at an acutely 
elevated risk of self to harm nor danger to others. 
.
-Protective Factors: female gender, age, children, married, 
employment, help-seeking behavior, medication compliance, no 
prior suicide attempts/self-injurious behavior, spirituality, no 
chronic substance use, reality-testing ability; these are not
sufficient to mitigate her risk at this time.
.
Our prognosis of this patient is good, with the support of her 
outpatient providers and spouse.
.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion XL (Once Daily) 300 mg PO DAILY 
2. Citalopram 40 mg PO DAILY 
3. HydrOXYzine 50 mg PO QHS 
4. LORazepam 1 mg PO BID:PRN anxiety 
5. balsalazide 750 mg oral DAILY 
6. Velivet Triphasic Regimen (28) (desogestrel-ethinyl 
estradiol) ___ mg-mcg oral DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Social anxiety 
depressive disorder nos vs MDD 

 
Discharge Condition:
Mental status: Linear, logical, organized thoughts.
Level of consciousness: Alert and interactive.
Activity status: Ambulatory without assistance, independent with 
ADLs and iADLs.
.
Discharge vital signs: 118/74, HR 83, RR 18, O2 sat 97% RA, PO 
98.6

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___